US07253192B2
A] (2-Methyl-4-prop-2-ynylsulfanyl-phenoxy)-acetic acid tert-butyl ester
3.50 g (11.81 mmol) of (4-acetylsulfanyl-2-methyl-phenoxy)-acetic acid tert-butyl ester (example 4A]) and 1.97 ml (17.71 mmol) of propargyl bromide were dissolved in 60 ml of acetonitrile and 3 ml of MeOH and treated with 6.62 g (14.17 mmol) Cs2CO3. After vigorous stirring for 3 h at ambient temperature and filtration, the solvent was evaporated and the residue redissolved in EtOAc. The organic phase was washed with aqueous 1N NaOH (two times) and aqueous 10% NaCl. After extraction of the water phases with EtOAc (two times), the organic phase was dried (Na2SO4) and evaporated to give 3.48 g of the title compound as a yellow oil.

reactant | (4-acetylsulfanyl-2-methyl-phenoxy)-acetic acid tert-butyl ester | 11.81 mmol, 3.50 g | C(C)(C)(C)OC(COC1=C(C=C(C=C1)SC(C)=O)C)=O | C15H20O4S
reactant | propargyl bromide | 17.71 mmol, 1.97 ml | C(C#C)Br | C3H3Br
reactant | MeOH | 3 ml | CO | CH4O
reactant | Cs2CO3 | 14.17 mmol, 6.62 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | (2-Methyl-4-prop-2-ynylsulfanyl-phenoxy)-acetic acid tert-butyl ester | 3.48 g | C(C)(C)(C)OC(COC1=C(C=C(C=C1)SCC#C)C)=O | C16H20O3S
